US07335658B2
SYNTHESIS OF 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYL-2-OXOETHYL)AMIDE
Dess-Martin periodinane (0.55 g, 1.3 mmol) was added to a solution of 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide (0.50 g, 1.07 mmol), the resulting reaction mixture was stirred at ambient temperature for 2 h, then diluted with ethyl acetate, sequentially washed with 10% Na2S2O3 solution, saturated NaHCO3 and brine. The organic layer was dried over anhydrous Na2SO4 and concentrated. The residue was purified by flash chromatography and recrystallized from ethyl acetate-hexanes to give the title compound in 87% yield (0.43 g). 1H NMR (300 MHz, CDCl3) δ 8.45-8.41, 8.02, 7.72, 7.63-7.51, 7.34, 7.00, 4.48, 4.47-3.28, 2.00-1.94, 1.18-1.11, 1.10-0.82. 13C NMR (75 MHz, CDCl3) δ 204.4, 167.6, 163.1, 159.8, 144.9, 134.2, 132.3, 129.5, 129.0, 127.5, 127.2, 126.9, 121.8, 118.1, 112.4, 49.5, 46.3, 44.6, 44.4, 41.2, 18.7, 11.4. MS (ES+) m/z 462.0 (M+1).

reactant | Dess-Martin periodinane | 1.3 mmol, 0.55 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide | 1.07 mmol, 0.50 g | C1(CC1)C(CNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)O | C22H24F3N5O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYL-2-OXOETHYL)AMIDE | 87% yield | C1(CC1)C(CNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C22H22F3N5O3
